US06281227B1
A. 6-Methyl-1H-quinolin-2-one
The title compound is prepared from p-toluidine and cinnamoyl chloride according to the procedure described in Synthesis 1975, 739. The crude product obtained is triturated in Et2O/hexanes and filtered to give the title compound as a beige solid which is used in the subsequent step.

reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | cinnamoyl chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
product | 6-Methyl-1H-quinolin-2-one | CC=1C=C2C=CC(NC2=CC1)=O | C10H9NO
